US08217028B2
To a solution of (COCl)2 (16.0 g) in DCM (200 mL) at 0° C. was added a solution of DMF (6 mL) in DCM (50 mL) dropwise. Half an hour later, a solution of 4-fluoro-1H-indole-7-carbonitrile (D41) (11.0 g) in DCM (60 mL) was added. The reaction was allowed to warm to RT to form a yellow precipitate. After 6 h the solvent was removed by evaporation. Then THF (100 mL) and 2M aqueous NaOH (100 L) were added to the residue obtained above. After being stirred for about 1 hour, EtOAc (1 L) was added. The organic phase was separated and the aqueous phase was extracted with EtOAc. The combined organic solution was dried over anhydrous sodium sulfate. The dried solution was concentrated to afford 4-fluoro-3-formyl-1H-indole-7-carbonitrile (D42) as a yellow solid (11.0 g).

reactant | (COCl)2 | 16.0 g | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | 4-fluoro-1H-indole-7-carbonitrile | 11.0 g | FC1=C2C=CNC2=C(C=C1)C#N | C9H5FN2
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-3-formyl-1H-indole-7-carbonitrile | 11.0 g | FC1=C2C(=CNC2=C(C=C1)C#N)C=O | C10H5FN2O
